US07585886B2
A 2.0 ml THF solution of 253 mg of 4-(methoxycarbonyl)phenyl(3S,4S)-3-(aminomethyl)-4-phenylpyrrolidine-1-carboxylate and 144 mg of 5-acetylbenzodioxane was mixed with 0.12 ml of a boron trifluoride diethyl ether complex at 0° C. and stirred overnight at room temperature. The reaction solution was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel chromatography (chloroform-methanol) to obtain 146 mg of 4-(methoxycarbonyl)phenyl(3S,4S)-3-({[1-(2,3-dihydro-1,4-benzodioxin-5-yl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate as a colorless amorphous substance. EP: 517.

reactant | 4-(methoxycarbonyl)phenyl(3S,4S)-3-(aminomethyl)-4-phenylpyrrolidine-1-carboxylate | 253 mg | NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC | C20H22N2O4
reactant | 5-acetylbenzodioxane | 144 mg | C(C)(=O)C1=CC=CC=2OCCOC21 | C10H10O3
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | 4-(methoxycarbonyl)phenyl(3S,4S)-3-({[1-(2,3-dihydro-1,4-benzodioxin-5-yl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate | 146 mg | O1CCOC2=C1C=CC=C2C(C)NC[C@H]2CN(C[C@@H]2C2=CC=CC=C2)C(=O)OC2=CC=C(C=C2)C(=O)OC | C30H32N2O6
